US08039495B2
Bis(tricyclohexylphosphine)palladium (250 mg, 0.375 mmol) was added to a stirred solution of 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester (4.6 g, 12.5 mmol) and 2,4-difluorophenylboronic acid (3.92 g, 25 mmol) in 125 mL dioxane. Argon was bubbled through the solution for 5 min. H2O (12.5 mL) was then added followed by dried, powdered potassium carbonate (3.45 g, 25 mmol). The mixture was heated to 100-105° C. under argon for 1 hr, cooled and distributed between 100 mL ethyl acetate and 100 mL H2O. The ethyl acetate layer was washed with saturated NaCl, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography with a gradient of 0-5% ethyl acetate in hexanes to yield 4.2 g of 3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester.

reactant | 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester | 12.5 mmol, 4.6 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)I)=O | C15H13IO3
reactant | 2,4-difluorophenylboronic acid | 25 mmol, 3.92 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 25 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 125 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 100 mL | O | H2O
product | 3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 4.2 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C21H16F2O3
